US05240925
a. Preparation of 2-(4-Chlorophenyl)-3-(3-pyridyl)acrylonitrile
This intermediate (157 g.) was prepared using the procedure described in Example 12a except using 110.0 g. (0.738 mole) of 4-chlorobenzyl cyanide, 81.0 g. (0.74 mole) of 3-pyridinecarboxaldehyde, and 40 ml. of 10% aqueous sodium hydroxide.

reactant | 4-chlorobenzyl cyanide | 0.738 mole | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | 3-pyridinecarboxaldehyde | 0.74 mole | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(4-Chlorophenyl)-3-(3-pyridyl)acrylonitrile | ClC1=CC=C(C=C1)C(C#N)=CC=1C=NC=CC1 | C14H9ClN2
